US07196080B2
To 297 mg of 4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-1-(4-hydroxyphenyl)piperazine were added 623 mg of [1,3]dioxolan-2-one and 147 mg of potassium carbonate, followed by 1.5 hours of stirring at 100° C. After the mixture was cooled to room temperature, water and then 1M hydrochloric acid were added to the reaction solution, which was then neutralized with a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform-methanol) and then recrystallization was carried out from ethyl acetate to obtain 41 mg of 2-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenoxy)ethanol as pale yellow crystals.

reactant | 4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-1-(4-hydroxyphenyl)piperazine | 297 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C24H25N3O4
reactant | [1,3]dioxolan-2-one | 623 mg | O1C(OCC1)=O | C3H4O3
reactant | potassium carbonate | 147 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenoxy)ethanol | 41 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(OCCO)C=C1 | C26H29N3O5
